US05102877
To a solution of (2S,4R)-4-(tert-butyldimethylsilyloxy)-1-(tert-butoxycarbonyl)-2-methoxycarbonylpyrrolidine (56 g) in tetrahydrofuran (400 ml) was added slowly lithium aluminum hydride (6 g) at 0° C. After stirring for 30 minutes, to the reaction mixture were added dropwise water (6 ml), 4N-aqueous sodium hydroxide (6 ml) and water (18 ml). The precipitate was filtered off, and the solvent was removed in vacuo to give (2S,4R)-4-(tert-butyldimethylsilyloxy)-1-(tert-butoxycarbonyl)-2-hydroxymethylpyrrolidine (44.15 g).

reactant | (2S,4R)-4-(tert-butyldimethylsilyloxy)-1-(tert-butoxycarbonyl)-2-methoxycarbonylpyrrolidine | 56 g | [Si](C)(C)(C(C)(C)C)O[C@@H]1C[C@H](N(C1)C(=O)OC(C)(C)C)C(=O)OC | C17H33NO5Si
reactant | lithium aluminum hydride | 6 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 6 ml | O | H2O
reactant | sodium hydroxide | 6 ml | [OH-].[Na+]
reactant | water | 18 ml | O | H2O
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
product | (2S,4R)-4-(tert-butyldimethylsilyloxy)-1-(tert-butoxycarbonyl)-2-hydroxymethylpyrrolidine | 44.15 g | [Si](C)(C)(C(C)(C)C)O[C@@H]1C[C@H](N(C1)C(=O)OC(C)(C)C)CO | C16H33NO4Si
